US05635510
74.2 Synthesis of 1-benzyl-4-(4-fluoro-phenyl)-piperidine-4-carboxylic acid amide N-oxide
1-Benzyl-4-(4-fluoro-phenyl)-4-cyano-piperidine hydrochloride (7.8 g, 26.5 mmol) was combined with aqueous sodium hydroxide (1.2 mL, 50% by weight) and ethanol (130 mL) and the mixture was heated to 50° C. The heating was removed, and a solution of hydrogen peroxide (12.11 mL, 30% by weight in water, 106 mmol) was added at such a rate that the temperature of the reaction mixture does not rise above 50° C. The reaction mixture was then stirred at 50° C. for 4 hours. The reaction mixture was diluted with water (100 mL) and most of the solvent was removed in vacuo before adding water (200 mL) to form a solid which was collected by filtration, rinsed with water, and dried in vacuo to give the title compound.

reactant | 1-Benzyl-4-(4-fluoro-phenyl)-4-cyano-piperidine hydrochloride | 26.5 mmol, 7.8 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C1=CC=C(C=C1)F
reactant | sodium hydroxide | 1.2 mL | [OH-].[Na+]
reactant | ethanol | 130 mL | C(C)O | C2H6O
reactant | hydrogen peroxide | 106 mmol, 12.11 mL | OO | H2O2
solvent | water | 100 mL | O | H2O
product | 1-benzyl-4-(4-fluoro-phenyl)-piperidine-4-carboxylic acid amide N-oxide | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)[NH2]=O)C1=CC=C(C=C1)F | C19H21FN2O2
